US04229449
To a solution of 5 g of guaiacol sodium salt in 60 ml of dimethylformamide, 1-phenylallyl-chloride (5.22 g) (J.C.S. 1959, p. 2720) was added under a nitrogen atmosphere. The whole was stirred for 4 hours at room temperature and for two hours at 50° C., poured into water and extracted with ethyl ether. After standard working up, followed by chromatographic separation, 3-(2-methoxy-phenoxy)-3-phenyl-propylene (8.1 g; 98%) was obtained.

reactant | guaiacol sodium salt | 5 g | [Na].C=1(C(O)=CC=CC1)OC
reactant | 1-phenylallyl-chloride | 5.22 g | C1(=CC=CC=C1)C(C=C)Cl | C9H9Cl
reactant | water | O | H2O
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 3-(2-methoxy-phenoxy)-3-phenyl-propylene | 8.1 g, 98% | COC1=C(OC(C=C)C2=CC=CC=C2)C=CC=C1 | C16H16O2
